US07534802B2
N-(4-Chlorophenyl)-2-[1-(4-pyridyl)ethylthio]pyridine-3-carboxamide (Compound No. 5-1)
N,N-Diisopropylethylamine (0.29 mL, 1.7 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (330 mg, 0.87 mmol) were added to a solution of 2-[1-(4-pyridyl)ethylthio]pyridine-3-carboxylic acid (200 mg, 0.77 mmol, Reference compound No. 5-1) and 4-chloroaniline (110 mg, 0.85 mmol) in N,N-dimethylformamide (2.0 mL), then the mixture was stirred at room temperature for 13 hours. Ethyl acetate (30 mL) was added to the reaction mixture, the ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution (30 mL) twice and brine (30 mL) twice, then dried over anhydrous magnesium sulfate. The resulting residue by evaporated under reduced pressure was purified by silica gel column chromatography to give 41 mg of the target compound as a colorless solid. (Yield 14%)

reactant | N,N-Diisopropylethylamine | 1.7 mmol, 0.29 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.87 mmol, 330 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-[1-(4-pyridyl)ethylthio]pyridine-3-carboxylic acid | N1=CC=C(C=C1)C(C)SC1=NC=CC=C1C(=O)O | C13H12N2O2S
reactant | 4-chloroaniline | 0.85 mmol, 110 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-Chlorophenyl)-2-[1-(4-pyridyl)ethylthio]pyridine-3-carboxamide | 41 mg, Yield 14% | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SC(C)C1=CC=NC=C1 | C19H16ClN3OS
